US08975254B2
(S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(3-hydroxy-3-methylbutyl)-2-methyl-1H-imidazole-4-carboxamide
The title compound was prepared using the method of the previous Example starting from (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1-(3-oxobutyl)-1H-imidazole-4-carboxamide and methylmagnesium bromide. The crude product was purified by flash chromatography on silica gel by using CH2Cl2-MeOH as a gradient eluent (100:1-98:2). The final purification was made by preparative HPLC to obtain the title compound. 1H NMR (400 MHz, CDCl3): 1.22 (3H, d), 1.30 (6H, s), 1.65 (1H, broad s), 1.88 (2H, m), 2.42 (3H, s), 4.02 (2H, m), 4.30 (1H, distorted dd), 4.38 (1H, distorted dd), 4.55 (1H, m), 6.60 (1H, d), 7.47 (1H, s), 7.50 (1H, d), 7.62 (1H, d), 7.65 (1H, d), 7.84 (1H, dd), 7.99 (1H, d).

reactant | (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1-(3-oxobutyl)-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(N(C1)CCC(C)=O)C | C22H23ClN6O2
reactant | methylmagnesium bromide | C[Mg]Br
product | (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(3-hydroxy-3-methylbutyl)-2-methyl-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(N(C1)CCC(C)(C)O)C | C23H27ClN6O2
